US05541229
Tert.butyl 4'-[(2-n-butyl-5-dimethylaminosulphonyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-5-dimethylaminosulphonyl-3-N-oxido-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate by catalytic hydrogenation in the presence of Raney nickel and subsequent reaction with trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[(2-n-butyl-5-dimethylaminosulphonyl-3-N-oxido-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=[N+](C2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC(=C2)S(=O)(=O)N(C)C)[O-] | C31H37N3O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Raney nickel | [Ni] | Ni
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Tert.butyl 4'-[(2-n-butyl-5-dimethylaminosulphonyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC(=C2)S(=O)(=O)N(C)C | C31H37N3O4S
